US04868321
A stirred solution of 17.1 g (0.10 mole) of 4-chloro-2-fluorophenyl isocyanate and 20.0 g (0.17 mole) of azidotrimethylsilane was heated under reflux for 16 hours. The reaction mixture was cooled to ambient temperature and 60 ml of toluene and 100 ml of water were added. The mixture was allowed to stand for two hours and the resultant solid collected by filtration. The filter cake was washed with petroleum ether to yield 14.5 g of 1-(4-chloro-2-fluorophenyl-1,4-dihydro-5H-tetrazol-5-one; m.p. 185°-187° C. The reaction was repeated several times.

reactant | 4-chloro-2-fluorophenyl isocyanate | 0.10 mole, 17.1 g | ClC1=CC(=C(C=C1)N=C=O)F | C7H3ClFNO
reactant | azidotrimethylsilane | 0.17 mole, 20.0 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 4-chloro-2-fluorophenyl-1,4-dihydro-5H-tetrazol-5-one | ClC1=CC(=C(C=C1)N1N=NNC1=O)F | C7H4ClFN4O
